US04994569
Working in a manner similar to that described in Example 12, but starting with (5RS, 6SR)-2-(3-furyl)-6-phenyl-5,6-dihydro-4H-1,3-oxazin-5-ol (2.6 g) and phenyl isocyanate (3.8 g), and after purification of the solid obtained by chromatography on a column (height: 30 cm; diameter: 4 cm) of silica (0.2-0.063 mm), eluting with a mixture of dichloroethane and ethyl acetate (90:10 by volume) and collecting 40-cc fractions, fractions 20 to 28 being combined and concentrated to dryness under reduced pressure (4 kPa) at 45° C., followed by recrystallizaiton in isopropyl ether (10 cc), (5RS, 6SR)-2-(3-furyl)-6-phenyl-5-phenylcarbamoyloxy-5,6-dihydro-4H-1,3-oxazine (1.55 g), m.p. 130° C., is obtained.

reactant | (5RS, 6SR)-2-(3-furyl)-6-phenyl-5,6-dihydro-4H-1,3-oxazin-5-ol | 2.6 g | O1C=C(C=C1)C=1OC(C(CN1)O)C1=CC=CC=C1 | C14H13NO3
reactant | phenyl isocyanate | 3.8 g | C1(=CC=CC=C1)N=C=O | C7H5NO
product | (5RS, 6SR)-2-(3-furyl)-6-phenyl-5-phenylcarbamoyloxy-5,6-dihydro-4H-1,3-oxazine | 1.55 g | O1C=C(C=C1)C=1OC(C(CN1)OC(NC1=CC=CC=C1)=O)C1=CC=CC=C1 | C21H18N2O4
